US04670557
A 300 ml stirred autoclave with pyrex liner was charged a mixture of N-methyldiisopropanolamine (60 g, 0.41 mol), tributylphosphine (1.6 ml), ruthenium trichloride (0.520 g) and tetraglyme (30 ml). The reactor was sealed and purged of air. The reaction was heated to 180° C. and held for three hours. The reaction was allowed to cool to room temperature. The reaction mixtures were distilled to obtain a 90% yield of 2,4,6-trimethylmorpholine.

reactant | N-methyldiisopropanolamine | 0.41 mol, 60 g | CC(CN(C)CC(C)O)O | C7H17NO2
reactant | tributylphosphine | 1.6 ml | C(CCC)P(CCCC)CCCC | C12H27P
catalyst | ruthenium trichloride | 0.520 g | [Ru](Cl)(Cl)Cl
solvent | tetraglyme | 30 ml | COCCOCCOCCOCCOC | C10H22O5
product | 2,4,6-trimethylmorpholine | 90% yield | CC1CN(CC(O1)C)C | C7H15NO
